US07713994B2
4-[(3-Hydroxy-4-propoxy-benzylamino)-methylene]-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione
A mixture of 5-aminomethyl-2-propoxy-phenol hydrochloride (109 mg, 0.50 mmole), 4 mL of N,N-dimethylformamide and triethylamine (75 μL, 0.54 mmole) is stirred for 15 minutes. Then (4-methoxymethylene-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione (134 mg, 0.50 mmole) is added and the reaction mixture stirred for one hour. The reaction mixture is evaporated to dryness, taken up in 5% methanol in chloroform and passed through a short pad of Florisil eluting with 5% methanol in chloroform. The eluate is evaporated in vacuo and treated with acetonitrile, filtered and dried to give a beige solid, 94 mg, (45%), mp 215-216° C. dec; MS (ES+): m/z 418.2 (M+H).

reactant | 5-aminomethyl-2-propoxy-phenol hydrochloride | 0.50 mmole, 109 mg | Cl.NCC=1C=CC(=C(C1)O)OCCC
reactant | triethylamine | 0.54 mmole, 75 μL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxymethylene-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione | 0.50 mmole, 134 mg | COC=C1C(NC(C2=CC=C(C=C12)N1C=CC=C1)=O)=O | C15H12N2O3
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-[(3-Hydroxy-4-propoxy-benzylamino)-methylene]-6-pyrrol-1-yl-4H-isoquinoline-1,3-dione | OC=1C=C(CNC=C2C(NC(C3=CC=C(C=C23)N2C=CC=C2)=O)=O)C=CC1OCCC | C24H23N3O4
